US05246948
i) Synthesis of N-benzyl-N-trifluoroacetylaminoethanol
To a solution of 14.2 ml (100 mmol) of N-benzylaminoethanol and 14.3 ml (205 mmol) of triethylamine in 200 ml of methylene chloride, 14.5 ml (205 mmol) of anhydrous trifluoroacetic anhydride was added with stirring under ice-cooling, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate and water, and dried. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate/hexane =1:1) to give 20.12 g of the desired compound (81.4% yield, yellow oil).

reactant | N-benzylaminoethanol | 100 mmol, 14.2 ml | C(C1=CC=CC=C1)NC(C)O | C9H13NO
reactant | triethylamine | 205 mmol, 14.3 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 205 mmol, 14.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-trifluoroacetylaminoethanol | 20.12 g, 81.4% yield | C(C1=CC=CC=C1)N(C(C(F)(F)F)=O)C(C)O | C11H12F3NO2
